US06642255B2
3,4-Pyridinedicarboxylic acid (25 g, 150 mmol) was dissolved in aqueous 1 N HCl solution (400 mL) in a Parr bottle. PtO2 (5 g) was added. The mixture was hydrogenated at 55 psi overnight. The catalyst was filtered off and the filtrate concentrated. The residue was taken up in water (250 mL) and cooled down in an ice bath. To it was added NaOH (18 g, 450 mmol) followed by Boc anhydride (32.7 g, 150 mmol). The mixture was stirred overnight and extracted with ether. The water layer was acidified with 1 N HCl to pH 3, extracted with EtOAc 2×. The combined extracts were washed with brine 2×, dried (MgSO4), and concentrated. Crystallization from EtOAc provided cis-N-Boc-3,4-piperidinedicarboxylic acid (31 g, 75%) as a crystal. MS (M+H)+=274.2.

reactant | 3,4-Pyridinedicarboxylic acid | 150 mmol, 25 g | N1=CC(=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | NaOH | 450 mmol, 18 g | [OH-].[Na+]
reactant | Boc anhydride | 150 mmol, 32.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCl | 1 N, 400 mL | Cl | ClH
catalyst | PtO2 | 5 g | O=[Pt]=O
product | cis-N-Boc-3,4-piperidinedicarboxylic acid | 31 g, 75% | C(=O)(OC(C)(C)C)N1C[C@H]([C@H](CC1)C(=O)O)C(=O)O | C12H19NO6
